US07572820B2
1-(Cyclopropylmethyl)-2-ethyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile
To a slurry of hexanes-washed NaH (0.0112 g, 0.279 mmol) in DMF (1 mL) at 0° C. was added a solution of 2-ethyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile (0.0332 g, 0.139 mmol) in DMF (1 mL), dropwise over 3 min. The mixture was stirred 30 min and bromomethylcyclopropane (0.030 mL, 0.28 mmol) was added via syringe. The mixture was stirred 5 h at rt, diluted with Et2O, poured into water, and the layers were separated. The aqueous layer was extracted with Et2O (×2), combined organics were washed (H2O, brine), dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by RP-HPLC(C18 column, MeCN/H2O with 0.1% TFA), affording 0.0261 g of the title compound as a colorless oil: 1H NMR (300 MHz, CDCl3) δ 7.55-7.47 (m, 2H), 6.59 (s, 1H), 4.07 (d, J=6.4 Hz, 2H), 2.84 (q, J=7.4 Hz, 2H), 1.44 (t, J=7.5 Hz, 3H), 1.24-1.01 (m, 1H), 0.66-0.57 (m, 2H), 0.41-0.32 (m, 2H).

reactant | NaH | 0.279 mmol, 0.0112 g | [H-].[Na+]
reactant | 2-ethyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | 0.139 mmol, 0.0332 g | C(C)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C12H9F3N2
reactant | bromomethylcyclopropane | 0.28 mmol, 0.030 mL | BrCC1CC1 | C4H7Br
reactant | water | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
product | 1-(Cyclopropylmethyl)-2-ethyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | 0.0261 g | C1(CC1)CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)CC | C16H15F3N2
